US09212172B2
Bazedoxifene hydrochloride (2 g), ethyl acetate (20 mL) and acetone (30 mL) are mixed. To the mixture, 10% aqueous sodium hydroxide solution (5 mL) is drop-wise added followed by addition of water (120 mL) and stirring is continued at room temperature for solid formation. The solid so formed is collected by filtration, washed with water (20 mL) and dried under vacuum below 75° C. for about 6-8 hours to afford 1.8 g of crystalline bazedoxifene free base Form A.

reactant | Bazedoxifene hydrochloride | 2 g | CC1=C(N(C2=C1C=C(C=C2)O)CC3=CC=C(C=C3)OCCN4CCCCCC4)C5=CC=C(C=C5)O.Cl
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
reactant | acetone | 30 mL | CC(=O)C | C3H6O
reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
solvent | water | 120 mL | O | H2O
product | bazedoxifene | 1.8 g | CC=1C=2C=C(C=CC2N(C1C=3C=CC(=CC3)O)CC=4C=CC(=CC4)OCCN5CCCCCC5)O | C30H34N2O3
